US04618692
3-benzyl-1-hydroxy-1-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl]-urea
540 mg (3.25 mmol) of 3-benzyl-1-hydroxyurea in 40 ml of acetone and a catalytic amount of trichloroacetic acid were added to 900 mg (3.25 mmol) of 4-hydroxycyclophosphamide in 1 ml of methylenechloride. The mixture was stored overnight at -25° C., the crystals were then drawn off by suction, washed with acetone and ether and recrystallized from ethyl acetate.

reactant | 3-benzyl-1-hydroxyurea | 3.25 mmol, 540 mg | C(C1=CC=CC=C1)NC(NO)=O | C8H10N2O2
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | 4-hydroxycyclophosphamide | 3.25 mmol, 900 mg | C1COP(=O)(NC1O)N(CCCl)CCCl | C7H15Cl2N2O3P
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | methylenechloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-benzyl-1-hydroxy-1-[2-(bis-(2-chloroethyl)-amino)-2-oxo-tetrahydro-2H-1,3,2-oxazaphosphorin-4-yl]-urea | C(C1=CC=CC=C1)NC(N(C1NP(OCC1)(=O)N(CCCl)CCCl)O)=O | C15H23Cl2N4O4P
